US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[2-(methylamino)-2-oxoethoxy]benzyl}propylcarbamate (315)
To a solution of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate (60 mg, 0.1 mmol) in anhydrous tetrahydrofuran (1.5 mL) was added 60% sodium hydride/mineral oil dispersion (4 mg, 0.1 mmol). The mixture was stirred for 10 min at ambient temperature under nitrogen atmosphere and a solution of N-methyl-2-bromoacetamide (17 mg, 0.11 mmol) in anhydrous tetrahydrofuran (0.5 mL) was added. After 2 h, an additional portion of 60% sodium hydride/mineral oil dispersion (4 mg, 0.1 mmol) was added. After 15 min, acetic acid (0.1 mL) was added and the mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate/water, dried (sodium sulfate), evaporated, and purified by chromatography (silica gel, ethyl acetate) to provide the title compound as a white solid (10 mg). 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.15-1.22 9 (1H, m), 1.2 (1H, quintuplet), 1.9-2.0 (1H, m), 2.35 (1H, t), 2.6 (3H, d), 2.65-2.80 (3H, m), 2.9 (1H, d), 2.95 (1H, dd), 3.2-3.3 (1H, m), 3.4-3.5 (1H, m), 3.5-3.6 (3H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.4 (2H, s), 4.8 (1H, dt), 5.0 (1H, d), 5.5 (1H, d), 6.2 (2H, s), 6.8 (2H, d), 7.0-7.2 (3H, m), 7.22 (1H, s), 7.25 (1H, d), 7.3 (1H, d), 8.0 (1H, br s); MS: 664 (MH+);

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 0.1 mmol, 60 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | sodium hydride | [H-].[Na+]
reactant | N-methyl-2-bromoacetamide | 0.11 mmol, 17 mg | CNC(CBr)=O | C3H6BrNO
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[2-(methylamino)-2-oxoethoxy]benzyl}propylcarbamate | 10 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCC(=O)NC)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C31H41N3O11S
